US07223788B2
3′-Isobutyrylaminobiphenyl-4-carboxylic acid
3′-Aminobiphenyl-4-carboxylic acid (0.2 g) was mixed in dichloromethane with potassium carbonate (121 mg) and isobutyryl chloride (94 mg). After 12 hours, the mixture was diluted with sodium hydroxide solution and washed with diethyl ether. The aqueous phase was acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. This resulted in the product with the molecular weight of 283.33 (C17H17NO3); MS (ESI): 284 (M+H+).

reactant | 3′-Aminobiphenyl-4-carboxylic acid | 0.2 g | NC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C13H11NO2
reactant | potassium carbonate | 121 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isobutyryl chloride | 94 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
product | 3′-Isobutyrylaminobiphenyl-4-carboxylic acid | C(C(C)C)(=O)NC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C17H17NO3
